### PR TITLE
feat(GreensOpenProblems): 25

### LINKED ISSUE #1560: Green's Open Problems #25
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.25

For which values of $k$ is the following true: whenever we partition $[N] = A_1 \cup ··· \cup A_k$, $\left|\bigcup^k_{i=1} (A_i \hat{+} A_i)\right| \geq \frac{1}{10} N$?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeangud**
# Description
Here is my attempt at Green's 25:
> For which values of $k$ is the following true: whenever we partition $[N] = A_1 \cup \dots \cup A_k$, $\left|\bigcup^k_{i=1} (A_i \hat{+} A_i)\right| \geq \frac{1}{10} N$?

- Closes #1560 
- Believe I figure out most of the edge cases: $k = 0$, $k > N$, also avoiding trivial counter-examples.
- The syntax feels a bit heavy with constant coercion between a `ℕ → ℕ` function and `ℝ`, let me know if you have some ideas on how to simplify this.

# Testing
```shell
$ lake build FormalConjectures/GreensOpenProblems/25.lean 
Build completed successfully.
```

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/25.lean [hunk 1]
```diff
@@ -0,0 +1,121 @@
...
+  ∀ᶠ N : ℕ in atTop,
+    1 ≤ k N ∧ k N ≤ N ∧ -- Ensure partitions exist
+    ∀ P : Finpartition (Icc 1 N), P.parts.card = k N →
+    10 * (P.parts.biUnion restrictedSumset).card ≥ N
+
+/-- The best-known lower bound [ESS89]. -/
+noncomputable def bestLower (N : ℕ) : ℝ := Real.log (Real.log N)
+
+/-- The best-known upper bound [ESS89]. -/
+noncomputable def bestUpper (N : ℕ) : ℝ := (N : ℝ) / Real.log N
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/25.lean:48]: Could you add the statements that the best upper and lower bounds do in fact work as bounds?

File: FormalConjectures/GreensOpenProblems/25.lean [hunk 2]
```diff
@@ -0,0 +1,121 @@
...
+
+/--
+For which values of $k$ is the following true: whenever we partition $[N] = A_1 \cup \dots \cup A_k$,
+$\left|\bigcup^k_{i=1} (A_i \hat{+} A_i)\right| \geq \frac{1}{10} N$?
+-/
+def Property25 (k : ℕ → ℕ) : Prop :=
+  ∀ᶠ N : ℕ in atTop,
+    1 ≤ k N ∧ k N ≤ N ∧ -- Ensure partitions exist
+    ∀ P : Finpartition (Icc 1 N), P.parts.card = k N →
+    10 * (P.parts.biUnion restrictedSumset).card ≥ N
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/25.lean]: What's the motivation for making `k` into a function here ? I understand that some of the formalisations here with need to be formulated with some asymptotic formulation, but it feels like this specific property doesn't quite need that (I'm of course open to being convinced otherwise:))

File: FormalConjectures/GreensOpenProblems/25.lean (hunk 1 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/25.lean:48]: I might misunderstand your question, but do [`green_25.variants.upper_ess89`](https://github.com/google-deepmind/formal-conjectures/pull/2326/changes#diff-4272ae38f3b3dd1a9787b7710d1798be1e4a228e3c4b4f295431047b8fab8ce2R108-R113) and [`green_25.variants.lower_ess89`](https://github.com/google-deepmind/formal-conjectures/pull/2326/changes#diff-4272ae38f3b3dd1a9787b7710d1798be1e4a228e3c4b4f295431047b8fab8ce2R94-R99) address your request by any chance?

File: FormalConjectures/GreensOpenProblems/25.lean (hunk 2 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/25.lean]: Many thanks @Paul-Lez for the early comments!

I agree, I don't think `Property25` needs to have a function as its input. I pushed https://github.com/google-deepmind/formal-conjectures/pull/2326/changes/63ed1273567cbb82f65b4e06c0ffde182df6d33e as a possible first simplification :+1: 

Overall, I still think the formalization is very verbose for some of the theorems (I drag and duplicate `∀ᶠ N in atTop` in many places). Definitely looking for some tips to simplify if you have any.

File: FormalConjectures/GreensOpenProblems/25.lean [hunk 3]
```diff
@@ -0,0 +1,128 @@
...
+
+namespace Green25
+
+/--
+The restricted sumset of a set $A$, denoted $A \hat{+} A$, is the set
+$\lbrace a_1 + a_2 : a_1, a_2 \in A, a_1 \neq a_2 \rbrace$.
+-/
+def restrictedSumset (A : Finset ℕ) : Finset ℕ :=
+  -- TODO(jeangud): add a generic `restrictedSumset` utility to `FormalConjecturesForMathlib`
+  A.offDiag.image (fun ⟨x, y⟩ ↦ x + y)
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/25.lean]: This also exists in `GreensOpenProblems/2.lean`. Let's extract them to a utility in this PR

Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/25.lean]: Thank you for the review @smmercuri, what do you think of 6df1c18?

File: FormalConjectures/GreensOpenProblems/25.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+@[category research open, AMS 5 11]
+theorem green_25.lower :
+    let ans := (answer(sorry) : ℕ → ℝ)
+    (bestLower =o[atTop] ans) ∧
+    (∀ᶠ N in atTop, 1 ≤ ans N ∧ ans N ≤ N) ∧
+    ∀ k : ℕ → ℕ,
+      (∀ᶠ N in atTop, 1 ≤ k N ∧ k N ≤ N) ∧
+      ((fun N => (k N : ℝ)) ≪ ans) →
+      ∀ᶠ N in atTop, Property25 (k N) N := by
+  sorry
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/25.lean:77]: I haven't thought too much about this, but is there a reason why `green_25.lower` has a different format to `green_25.upper`? I would expect that they are asymmetric in formalisation but I see there are extra assertions in `green_25.lower`.

File: FormalConjectures/GreensOpenProblems/25.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+
+
+/--
+For which values of $k$ is the following true: whenever we partition $[N] = A_1 \cup \dots \cup A_k$,
+$\left|\bigcup^k_{i=1} (A_i \hat{+} A_i)\right| \geq \frac{1}{10} N$?
+-/
+def Property25 (k N : ℕ) : Prop :=
+  1 ≤ k ∧ k ≤ N ∧
+  ∀ P : Finpartition (Icc 1 N), P.parts.card = k →
+  10 * (P.parts.biUnion Finset.restrictedSumset).card ≥ N
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/25.lean]: since you have `open Finset` you can use this notation if you like
```suggestion
  10 * #(P.parts.biUnion Finset.restrictedSumset) ≥ N
```

File: FormalConjectures/GreensOpenProblems/25.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+  245-248.
+-/
+
+open Asymptotics Filter Finset
+
+namespace Green25
+
+
+
+/--
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/25.lean:35]:
```suggestion
namespace Green25

/--
```

File: FormalConjectures/GreensOpenProblems/25.lean [hunk 7]
```diff
@@ -0,0 +1,122 @@
...
+  sorry
+
+/-- We conjecture that the best-known upper bound can be lowered. -/
+@[category research open, AMS 5 11]
+theorem green_25.upper :
+    let ans := (answer(sorry) : ℕ → ℕ)
+    (∀ᶠ N in atTop, 1 ≤ ans N ∧ ans N ≤ N) ∧ -- Ensure k is a valid partition size
+    ((fun N => (ans N : ℝ)) =o[atTop] bestUpper) ∧
+    ¬ (∀ᶠ N in atTop, Property25 (ans N) N) := by
+  sorry
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/25.lean:65]: you can remove some parens here and similarly throughout
```suggestion
theorem green_25.upper :
    let ans := (answer(sorry) : ℕ → ℕ)
    (∀ᶠ N in atTop, 1 ≤ ans N ∧ ans N ≤ N) ∧ -- Ensure k is a valid partition size
    (fun N => (ans N : ℝ)) =o[atTop] bestUpper ∧
    ¬∀ᶠ N in atTop, Property25 (ans N) N := by
  sorry
```

File: FormalConjectures/GreensOpenProblems/25.lean [hunk 8]
```diff
@@ -0,0 +1,122 @@
...
+
+NOTE: [ESS89] derive a precise constant for which this is true, but $\ll$ would imply that it works
+for any constant. We thus prefer a little-o statement.
+ -/
+@[category research solved, AMS 5 11]
+theorem green_25.variants.lower_ess89 :
+  ∀ k : ℕ → ℕ,
+    (∀ᶠ N in atTop, 1 ≤ k N ∧ k N ≤ N) ∧ -- Ensure Property25 is not False due to non-existent partitions
+    ((fun N => (k N : ℝ)) =o[atTop] bestLower)
+    → ∀ᶠ N in atTop, Property25 (k N) N := by
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/25.lean]: nit: wrap after the implication, or these can fit on a single line (as you prefer!)
```suggestion
    ((fun N => (k N : ℝ)) =o[atTop] bestLower) → ∀ᶠ N in atTop, Property25 (k N) N := by
```

File: FormalConjectures/GreensOpenProblems/25.lean (hunk 1 above)
Comment (smmercuri) [reply FormalConjectures/GreensOpenProblems/25.lean:48]: yes I think those variants address the Q!

File: FormalConjectures/GreensOpenProblems/25.lean (hunk 8 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/25.lean]: Good catch thank you. I opted to wrap after `→` :+1:

File: FormalConjectures/GreensOpenProblems/25.lean (hunk 7 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/25.lean:65]: Good idea. Simplified throughout :white_check_mark: 

**Note:** the same parens removal does not work for `≫` notations.

File: FormalConjectures/GreensOpenProblems/25.lean (hunk 6 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/25.lean:35]: Fixed! :white_check_mark:  Thank you

File: FormalConjectures/GreensOpenProblems/25.lean (hunk 5 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/25.lean]: Done!
I like it, thank you for the tip

File: FormalConjectures/GreensOpenProblems/25.lean (hunk 2 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/25.lean]: Resolved with https://github.com/google-deepmind/formal-conjectures/commit/63ed1273567cbb82f65b4e06c0ffde182df6d33e, using fixed $k$, not a function anymore.

File: FormalConjectures/GreensOpenProblems/25.lean (hunk 4 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/25.lean:77]: Great question, thank you for the review @smmercuri !

They are indeed asymmetric, from [Green's comments](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.25):
> So far as I know, all that is known is the following: for k ≪ log log N, this is true, whilst for k ≫ N/ log N, **it need not be**.

Essentially I formalized this as:
- **.upper (existential):** Find **one** $k$ where the property fails earlier than $N / \log N$.
- **.lower (universal):** Find one $k$ (larger than $\log \log N$), such that for any $k' ≪ k$ the property holds.

Another way to see this:
- **.upper** The user directly provides the `k` in `upper_ess89`, fits immediately into a similar formulation.
- **.lower** The user provides `bestLower` in `lower_ess89`, needs a few extra statements to define `bestLower`. So we add:
    ```lean
    let ans := (answer(sorry) : ℕ → ℝ)
    (bestLower =o[atTop] ans) ∧
    (∀ᶠ N in atTop, 1 ≤ ans N ∧ ans N ≤ N) ∧
    ```
    to define `ans` as our new `bestLower`. The rest is then directly the same as `lower_ess89`:
    ```lean
    ∀ k : ℕ → ℕ,
        (∀ᶠ N in atTop, 1 ≤ k N ∧ k N ≤ N) ∧ -- Ensure Property25 is not False due to non-existent partitions
        (fun N => (k N : ℝ)) =o[atTop] bestLower (OR ANS) →
        ∀ᶠ N in atTop, Property25 (k N) N := by
    ```


Does this make sense?

Comment (smmercuri) [reply FormalConjectures/GreensOpenProblems/25.lean:77]: I see! That makes sense

**Review by smmercuri — APPROVED** [review]
LGTM, thank you!
